US07332508B2
1-{4-[3-((1-Cyclopentylpiperidin-4-yl)methyl)[1,2,4]oxadiazol-5-yl]benzyl}-4-(4-fluoro-phenyl)-1,2,3,6-tetrahydropyridine, Dihydrochloride
The title compound was prepared by a similar procedure to that described in Example 23, starting from 4-[5-(4-chloromethylphenyl)[1,2,4]oxadiazol-3-ylmethyl]-1-cyclopentylpiperidine and 4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridine. HPLC: Rt=11.63 min.

reactant | 4-[5-(4-chloromethylphenyl)[1,2,4]oxadiazol-3-ylmethyl]-1-cyclopentylpiperidine | ClCC1=CC=C(C=C1)C1=NC(=NO1)CC1CCN(CC1)C1CCCC1 | C20H26ClN3O
reactant | 4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridine | FC1=CC=C(C=C1)C=1CCNCC1 | C11H12FN
product | 1-{4-[3-((1-Cyclopentylpiperidin-4-yl)methyl)[1,2,4]oxadiazol-5-yl]benzyl}-4-(4-fluoro-phenyl)-1,2,3,6-tetrahydropyridine, Dihydrochloride | Cl.Cl.C1(CCCC1)N1CCC(CC1)CC1=NOC(=N1)C1=CC=C(CN2CCC(=CC2)C2=CC=C(C=C2)F)C=C1 | InChI=1S/C31H37FN4O.2ClH/c32-28-11-9-25(10-12-28)26-15-17-35(18-16-26)22-24-5-7-27(8-6-24)31-33-30(34-37-31)21-23-13-19-36(20-14-23)29-3-1-2-4-29;;/h5-12,15,23,29H,1-4,13-14,16-22H2;2*1H
